US07053212B2
Step A: N-[Chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-3-methyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzamide
A solution of [2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (100 mg, 0.232 mmol) and triethylamine (0.100 mL, 0.696 mmol) in methylene chloride was added to m-toluenecarbonyl chloride (72 mg, 0.46 mmol). The reaction mixture was stirred at room temperature for 24 hr. Saturated aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was washed with 2 mL of methylene chloride. The combined organic layers were concentrated to give the title compound of Step A. MS 549.1 (M+1)+

reactant | [2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.232 mmol, 100 mg | ClC1=C(CNC2=CC=C(C=C2)OCCN2CCCC2)C=CC(=C1)OC1OCCCC1 | C24H31ClN2O3
reactant | triethylamine | 0.696 mmol, 0.100 mL | C(C)N(CC)CC | C6H15N
reactant | m-toluenecarbonyl chloride | 0.46 mmol, 72 mg | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[Chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-3-methyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzamide | ClC(C1=CC=C(C=C1)OC1OCCCC1)N(C(C1=CC(=CC=C1)C)=O)C1=CC=C(C=C1)OCCN1CCCC1 | C32H37ClN2O4
